US07745438B2
5-(R)-[2-(S)-Acetylamino-3-(3-butoxyphenyl)-1-(S)-hydroxypropyl]-2-(R)-(2,2-dimethylpropoxy)-3-(S)-methylmorpholine-4-carboxylic acid tert-butyl ester
Add 1-bromobutane (6 μL, 55.6 μmol) to a solution of 5-[2-(S)-acetylamino-1-(S)-hydroxy-3-(3-hydroxyphenyl)-propyl]-2-(R)-(2,2-dimethylpropoxy)-3-(S)-methylmorpholine-4-carboxylic acid tert-butyl ester (25 mg, 50.5 μmol) and cesium carbonate (33 mg, 1.01 mmol) in N,N-dimethylformamide (250 μL). Heat to 60° C. for 3 hours. Dilute with ethyl acetate, wash with water, dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 20:80 to 85:15 ethyl acetate:dichloromethane) to give the title compound (28.5 mg, 80%).

reactant | 1-bromobutane | 55.6 μmol, 6 μL | BrCCCC | C4H9Br
reactant | 5-[2-(S)-acetylamino-1-(S)-hydroxy-3-(3-hydroxyphenyl)-propyl]-2-(R)-(2,2-dimethylpropoxy)-3-(S)-methylmorpholine-4-carboxylic acid tert-butyl ester | 50.5 μmol, 25 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OCC1[C@H]([C@H](CC1=CC(=CC=C1)O)NC(C)=O)O)OCC(C)(C)C)C | C26H42N2O7
reactant | cesium carbonate | 1.01 mmol, 33 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 250 μL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(R)-[2-(S)-Acetylamino-3-(3-butoxyphenyl)-1-(S)-hydroxypropyl]-2-(R)-(2,2-dimethylpropoxy)-3-(S)-methylmorpholine-4-carboxylic acid tert-butyl ester | 28.5 mg, 80% | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC=C1)OCCCC)NC(C)=O)O)OCC(C)(C)C)C | C30H50N2O7
